US04985595
200 g of 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide trihydrate and 65.2 g of sodium hydroxymethanesulfonate were suspended in 400 ml of water, and the suspension was refluxed over night. After cooling, the reaction mixture was washed with chloroform, and an insoluble material was removed by filtration. The filtrate was concentrated in vacuo. The residue was dissolved in a mixture of 500 ml of water and 500 ml of ethanol under heating, and then the solution was cooled. The precipitate formed was collected by filtration and recrystallized from a mixture of water and ethanol to give 59.2 g of sodium N-(3-carbamoylphenyl)-N-(2-((2-(3,4-dimethoxyphenyl)ethyl)amino)-2-oxoethyl)aminomethanesulfonate dihydrate as colorless crystals with m.p. 253° to 255° C. (decomposition).

reactant | 2-(3-carbamoylphenylamino)-N-(3,4-dimethoxyphenethyl)acetamide trihydrate | 200 g | O.O.O.C(N)(=O)C=1C=C(C=CC1)NCC(=O)NCCC1=CC(=C(C=C1)OC)OC
reactant | sodium hydroxymethanesulfonate | 65.2 g | OCS(=O)(=O)[O-].[Na+]
solvent | water | 400 ml | O | H2O
product | sodium N-(3-carbamoylphenyl)-N-(2-((2-(3,4-dimethoxyphenyl)ethyl)amino)-2-oxoethyl)aminomethanesulfonate dihydrate | 59.2 g | O.O.C(N)(=O)C=1C=C(C=CC1)N(CC(=O)NCCC1=CC(=C(C=C1)OC)OC)CS(=O)(=O)[O-].[Na+] | InChI=1S/C20H25N3O7S.Na.2H2O/c1-29-17-7-6-14(10-18(17)30-2)8-9-22-19(24)12-23(13-31(26,27)28)16-5-3-4-15(11-16)20(21)25;;;/h3-7,10-11H,8-9,12-13H2,1-2H3,(H2,21,25)(H,22,24)(H,26,27,28);;2*1H2/q;+1;;/p-1
